US07569578B2
(±)-N-(1-(4-Bromo-1H-imidazol-2-yl)-2-(7-methyl-1H-indazol-5-yl)ethyl)-4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide
tert-Butyl 1-(4-bromo-1H-imidazol-2-yl)-2-(7-methyl-2-((2(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethylcarbamate (19.0 mg, 0.035 mmol) was dissolved in a minimum amount of ethyl acetate, and treated with hydrochloric acid (4 N in dioxane, 1.0 mL) (1.0 mL). The mixture was stirred under nitrogen for 3 days. After removal of the solvents, the crude mixture was treated with diethyl ether to give a precipitate which was filtered. The resulting solid was dissolved in dimethylformamide (1.0 mL), cooled to 0° C., and treated with carbonyl diimidazole (6.2 mg, 0.038 mmol, 1.1 equiv) and N′N-diisopropylethylamine (25.0 μL, 4.0 equiv). The reaction was stirred for 5 min at 0° C., warmed to room temperature, stirred for 10 min, and treated with 3-(piperidin-4-yl)-3,4-dihydroquinazolin-2(1H)-one (10.1 mg, 0.038, 1.1 equiv). The mixture was stirred at room temperature overnight. The solvent was evaporated and the residue purified by column chromatography to afford 7.3 mg, (36%, 2 steps). 1H-NMR (CD3OD, 500 MHz) δ 1.50-1.71 (m, 4H), 2.55 (s, 3H), 2.74-2.93 (m, 2H), 3.16-3.25 (m, 2H), 4.03-4.20 (m, 4H), 4.78 (m, 1H), 5.12-5.19 (m, 1H), 6.63 (d, J=7.9, 1H), 6.94 (d, J=7.9, 1H), 6.94-7.00 (m, 2H), 7.04 (s, 1H), 7.12 (s, 1H), 7.12 (d, J=7.3, 1H), 7.16 (dd, J=7.6, 7.6, 1H), 7.40 (s, 1H), 7.99 (s, 1H). Mass spec.: 577.67 (MH)+.

reactant | tert-Butyl 1-(4-bromo-1H-imidazol-2-yl)-2-(7-methyl-2-((2(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethylcarbamate | 0.035 mmol, 19.0 mg | BrC=1N=C(NC1)C(CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C)NC(OC(C)(C)C)=O | C24H36BrN5O3Si
reactant | hydrochloric acid | 4 N, 1.0 mL | Cl | ClH
reactant | carbonyl diimidazole | 0.038 mmol, 6.2 mg, 1.1 equiv | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 3-(piperidin-4-yl)-3,4-dihydroquinazolin-2(1H)-one | 10.1 mg, 1.1 equiv | N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C13H17N3O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (±)-N-(1-(4-Bromo-1H-imidazol-2-yl)-2-(7-methyl-1H-indazol-5-yl)ethyl)-4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide | BrC=1N=C(NC1)C(CC=1C=C2C=NNC2=C(C1)C)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C27H29BrN8O2
